US07214682B2
13.2 (4-Fluoro-2-methoxy-phenyl)-acetic acid methyl ester
To a suspension of 14.34 g (32.47 mmol) of lead (IV) acetate in 100 ml of anhydrous toluene was added a mixture of 5.2 g (30.92 mmol) of 1-(4fluoro-2-methoxy-phenyl)-ethanone and 15.02 ml (123.13 mmol) of boron trifluoride etherate in 9 ml of methanol. The reaction mixture is further stirred at room temperature for 16 h. Water was added to the cooled mixture and the resulting solution extracted with toluene. The extracts were washed with saturated sodium hydrogen carbonate solution, saturated sodium chloride solution and dried with sodium sulphate. The solvent was evaporated to dryness to give 6 g of product as an oil, which was used in the subsequent step without further purification.

reactant | lead (IV) acetate | 32.47 mmol, 14.34 g | C(C)(=O)[O-].[Pb+4].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-]
reactant | 1-(4fluoro-2-methoxy-phenyl)-ethanone | 30.92 mmol, 5.2 g | FC1=CC(=C(C=C1)C(C)=O)OC | C9H9FO2
reactant | boron trifluoride etherate | 123.13 mmol, 15.02 ml | B(F)(F)F.CCOCC
reactant | Water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 9 ml | CO | CH4O
product | (4-Fluoro-2-methoxy-phenyl)-acetic acid methyl ester | 6 g | COC(CC1=C(C=C(C=C1)F)OC)=O | C10H11FO3
